US06384041B1
To a 60° C. solution of sodium ethoxide, prepared from 1.92 g (80 mmol) of sodium hydride and 60 of ethanol, was added 6.09 g (80 mmol) of thiourea and 18.2 g (80mmol) of α-cyano-2-ethyl-1,3-dioxolane-2-propanoic acid ethyl ester. The mixture was heated to 75° C. for 4 hours then allowed to cool to ambient temperature and stirred for 18 hours. The reaction was then concentrated to a solid. The solid was dissolved in 100 mL of water and the solution adjusted to pH 6.9 with glacial acetic acid which caused a solid to precipitate. The solid was collected by filtration and washed with 100 mL of water. The wet cake was combined with 60 mL of ethanol and stirred for 15 minutes. The remaining solids were collected by filtration, washed with 40 mL of ethanol, and dried in vacuo (40° C., 10 torr) to provide 11.0 g (53.4%) of 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-2-thiouracil as a cream colored solid. nmr (500 MHz, dmso-d6) δ0.80 (t, J=7.4 Hz, 3H), 1.51 (q, J=7.4 Hz, 2 H), 2.51 (s, 2H), 3.81 (m, 2H), 3.92 (m, 2H), 5.95 (s, 2H), 11.43 (s, 1H), 11.69 (s, 1H)

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium hydride | 80 mmol, 1.92 g | [H-].[Na+]
reactant | thiourea | 80 mmol, 6.09 g | NC(=S)N | CH4N2S
reactant | α-cyano-2-ethyl-1,3-dioxolane-2-propanoic acid ethyl ester | 80mmol, 18.2 g | C(C)OC(C(CC1(OCCO1)CC)C#N)=O | C11H17NO4
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-5-(2-ethyl-1,3-dioxolan-2-ylmethyl)-2-thiouracil | 11.0 g, 53.4% | NC1=C(C(NC(N1)=S)=O)CC1(OCCO1)CC | C10H15N3O3S
